Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Codeine / Topamax
 
Attending: ___.
 
Chief Complaint:
Neck pain, hypotension, found to have acute renal toxicity on 
labs
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with h/o Hodgkin's lymphoma s/p chemo/rads in ___ - now 
in remission, peripheral neuropathy ___ vinblastine, narcotic 
and cocaine abuse, COPD, reported seizure d/o on depakote, 
NIDDM, carotid artery stenosis, CVA, depression, reported MI, 
and 2 recent visits to the ED on ___ and ___ for neck/back 
pain and then headache now represents to the ED with neck pain, 
multiple reported seizures/falls - found to have ___ and ? 
valproic acid toxicity w/ elevated ammonia in the ED.  
.  
He is a rambling and tangential historian - at times 
cooperative, but also intermittently tells me to look at his 
records and to stop asking questions. The patient reports that 
he has been coming to see his girlfriend in the hospital for the 
past 10 days - he tells me that she has AIDs and is admitted to 
___ for pneumonia, seizures, and shingles. On ___, he 
presented to the ED for terrible neck and back pain and was 
discharged. On ___, he represented with severe h/a and was 
again d/c'd after negative head CT. Then, he reports that on 
___ night, he was crossing ___ in ___, when he 
tripped on the curb and fell - he caught himself with his hands 
and doesn't think he hit his head. His neck did not hurt him at 
the time. He then woke up on ___ morning and states that he 
couldn't turn his head at all. He went to his mom's house to 
retrieve her soft neck collar and put it on, which made him feel 
better. Then today, he came to visit his girlfriend in the 
hospital. His neck was still bothering him so he came to the ED 
where he also c/o seizures. He also mentions that he has been 
hit by a car 3 times and that he has 3 herniated discs.  
.  
Regarding his seizure d/o, the patient states that his first 
seizure was in ___. His next seizure was in ___ of this year 
when he fell down a staircase. He has had many seizures since 
then - he reports up to 3Xs per day. His last seizure was on 
___ after his discharge from the ED where he seized on the 
sidewalk outside in front of EMTs. He reports that he does not 
lose consciousness when he has seizures - both of his arms shake 
and he hugs himself to make them stop shaking. Sometimes his 
legs shake, too. When asked who follows him for seizures, he 
reports that Dr. ___ used to follow him, but 'dropped 
him' and that his new PCP who he met last month is Dr. ___ 
___ at the ___. For his seizures, he states that he used 
to take 500 mg of Depakote BID but now takes 1000 mg BID - he 
never takes more than this dose. He can't remember when it was 
increased. He adds that his wife takes ___, too.  
.  
In the ED, initial VS were 97.4 88 152/86 18 100% on RA; ___ 
pain. He reported to ED that he had seized on ___ night, 
fell forward and hit his head and chest on a table. Labs 
revealed Hct of 37.4 and otherwise nl CBC, HCO3 of 19 w/ anion 
gap of 17, Cr of 1.8 (up from bl of 0.7), normal LFTs, tylenol 
level of 14 (otherwise, nl serum tox), mildly elevated valproate 
level of 132, normal serum osm, Utox was + for cocaine and 
barbiturates (takes fioricet). Imaging studies included Head CT 
that showed artifact vs. fat or gas in sagital sinus (not seen 
on ___ Head CT), CXR showed clear lungs, vague opacity at the 
left mid and lower lung likely corresponds with areas of 
costochondral calcification. EKG showed NSR, ? isolated STE in 
II vs. artifact - changed since ___ and changes in III and aVF 
compared to ___ likely ___ lead placement. The patient 
triggered for hypotension w/ SBPs in the ___ 3 hrs after 
presentation. ___ IV was placed and he was given a total of 4L 
of IVF with improvement in BP to 129/62 prior to transfer. He 
underwent FAST scan, which was negative as well as non-con Abd 
CT, which prelim read is unremarkable. Toxicology was c/s for 
his elevated valproate level and recommended supportive care and 
checking ammonia level - rec'd if elevated, to administer 
L-carnitine. They will follow on the floor. The patient was 
admitted for ___ and possible valproate toxicity.  
.  
Currently, VS are 97.7 100/64 83 16 97% on RA. The patient 
reports persistent neck and back pain as well as headache. He 
denies ever taking more depakote than prescribed. He felt a 
little nauseated and lightheaded with low BP in ED. He hands me 
paperwork from his recent ED visits and from his recent visit 
with his PCP at ___. He reports thirst.  
.  
ROS: + for subjective fevers/chills, headaches, CP related to 
hitting his ribs when he fell, constipation  
- for night sweats, vision changes, cold sx, SOB, N/V/D, dysuria
 
Past Medical History:
# Hodgkin's lymphoma s/p ABVD and radiation in ___, now in 
remission  
# Peripheral neuropathy related to vinblastine  
# NIDDM since ___  
# HL  
# GERD  
# COPD  
# Cocaine abuse  
# Narcotic misuse and breaking narcotics contract (see ___ 
OMR note)  
# Depression  
# reported seizure d/o  
# reported MI - denies stents  
# reported CVA on ASA and Plavix  
# Carotid artery stenosis  
# herniated discs  
# Glaucoma  
# Cervical stenosis ___  
# Lumbar stenosis "L4-5"  
# Back spasms  
# Testicular atrophy, s/p mumps as child  
# s/p metal wire through the L eye that "went into the brain" -  

accident occurred at work yrs ago; reports no neurological  
sequelae after this, but does have worse vision in the L eye  
since  

 
Social History:
___
Family History:
Family history significant for cervical cancer in mother. 
Mother's parents had strokes in ___ and ___. PGM had cirrhosis.
 
Physical Exam:
ADMISSION EXAM
VS: 97.7 100/64 83 16 97% on RA  
GENERAL: pale man lying in bed with soft neck collar on, he 
appears tired, mild slurring of speech, holding recent BI ED d/c 
papers and intermittently reading through them, comfortable, 
A&ox3  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, dry MM, OP clear. 
 
NECK: took off soft collar for exam, patient able to turn head 
left and right, supple, no JVD, no carotid bruits appreciated  
HEART: RRR, ___ murmur heard best at LUSB, nl S1-S2.  
LUNGS: occasional wheezes, unlabored, clear otherwise  
ABDOMEN: Soft/NT/ND,  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses  
SKIN: bruises on both arms and in hands from IVs, multiple 
scabbed over lesions on bil thighs  
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, cerebellar 
exam intact, bil arm tremors but no asterixis  

DISCHARGE EXAM
VSS, Afebrile
Gen: NAD, walking around, AOx3
Neck: No point tenderness, range of motion limited due to pain
Heart: RRR, ___ murmur, nl s1, s2
Lungs: CTAB, no wheezes, crackles
Abd: soft, NT, ND
Ext: no edema, good pulses
Neuro: Nonfocal, ___ strength, normal sensation
 
Pertinent Results:
ADMISSION LABS

___ 01:05PM BLOOD WBC-7.3 RBC-3.80* Hgb-12.8* Hct-37.4* 
MCV-98 MCH-33.7* MCHC-34.2 RDW-14.3 Plt ___
___ 01:05PM BLOOD Neuts-64.1 ___ Monos-4.3 Eos-3.6 
Baso-0.5
___ 01:05PM BLOOD Plt ___
___ 01:05PM BLOOD Glucose-114* UreaN-14 Creat-1.8*# Na-140 
K-4.8 Cl-104 HCO3-19* AnGap-22*
___ 01:05PM BLOOD ALT-11 AST-7 LD(LDH)-142 CK(CPK)-40* 
AlkPhos-51 TotBili-0.1
___ 01:05PM BLOOD Albumin-4.2 Calcium-9.3 Phos-5.3* Mg-2.1
___ 01:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-14 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:30AM BLOOD ___ pO2-52* pCO2-56* pH-7.27* 
calTCO2-27 Base XS--1
___ 08:04PM BLOOD Lactate-2.7*
___ 01:30AM BLOOD Lactate-1.8
.
DISCHARGE LABS
___ 06:05AM BLOOD WBC-4.6 RBC-3.16* Hgb-10.7* Hct-30.7* 
MCV-97 MCH-33.8* MCHC-34.9 RDW-14.4 Plt ___
___ 01:18AM BLOOD ___ PTT-23.5 ___
___ 06:05AM BLOOD Glucose-113* UreaN-10 Creat-0.8 Na-142 
K-5.1 Cl-114* HCO3-23 AnGap-10
___ 06:05AM BLOOD ALT-6 AST-6 AlkPhos-38* TotBili-0.1
___ 06:05AM BLOOD Calcium-7.8* Phos-3.7 Mg-1.9
___ 01:05PM BLOOD Lipase-35
.
AMMONIA LEVEL:

___ 08:00PM BLOOD Ammonia-198*
___ 01:18AM BLOOD Ammonia-391*
___ 06:05AM BLOOD Ammonia-98*
___ 12:45PM BLOOD Ammonia-63*

VALPROIC LEVEL:
___ 01:05PM BLOOD Phenyto-<0.6* Lithium-LESS THAN  
Valproa-132*
___ 08:00PM BLOOD Valproa-81
___ 01:18AM BLOOD Valproa-53
___ 06:05AM BLOOD Valproa-37*

HIV:
___ 01:18AM BLOOD HIV Ab-NEGATIVE

EKG: Normal sinus rhythm, rate 73. Low limb lead voltage. Q 
waves in III and aVF raising question of an inferior wall 
myocardial infarction of indeterminate age. Non-specific changes 
are unchanged compared to tracing of ___ 

CXR ___: FINDINGS: AP portable supine chest radiograph is 
obtained. The lungs are clear bilaterally without focal 
consolidation, effusion, or pneumothorax.  Vague opacity at the 
left mid and lower lung likely corresponds with areas of 
costochondral calcification. Heart size is top normal. No 
pleural effusion or pneumothorax. No definite displaced rib 
fractures are seen.  

CT Abd/Pelvis ___: IMPRESSION: 
1. No evidence of hemorrhage or acute intra-abdominal injury. 
2. Gallstones. 

CT neck ___: IMPRESSION: No acute fracture or subluxation of 
the cervical spine. As there is moderate central canal 
narrowing, if there is concern for cord injury, MRI is more 
sensitive for detection of this finding. 

CT head ___: IMPRESSION: No acute intracranial process. 
Previous area of air within the superior sagittal sinus is no 
longer present. 

 
Brief Hospital Course:
This is a ___ yo M with a long and varied PMH that includes 
Hidgkins Lymphoma, Drug and alcohol abuse, DM2, Hyperlipidemia, 
GERD, depression, chronic back pain, and seizure history on 
Valproic acid who presents with acute on chronic neck pain and 
found to have ___, hypotension, fevers, and an elevated valproic 
acid level.
.
1. Valproic Acid Toxicity: The patient is treated with valproic 
acid for a seizure history. The patient notes that he has been 
compliant with his treatment, although he does describe multiple 
episodes of "seizures" that he can voluntarily stop. In the ED, 
the patient was found to have a slightly elevated valproic acid 
serum level to 131. The patient also had an acute creatinine 
rise, hypotension, and slight altered mental status that could 
have been attributed to toxic levels of valproate. Our 
toxicology consults recommended that we check an ammonia level, 
which returned at 198 and peaked at 391. They recommended giving 
one dose of L-carnitine, for possible urea cycle enzyme 
deficiency, and then to recheck an ammonia. On recheck, the 
patient's ammonia was trending down. His hypotension and ___ 
resolved with fluids. His valproate level quickly trended down 
as well. On the morning of admission, the patient felt much 
improved. Due to his seizure history, we decided to place him 
back on his valproate at half the dose. The patient was given 
quick follow-up with his PCP, and his PCP was emailed to let him 
know that the patient may develop future toxicity if he has a 
urea cycle enzymatic deficiency.
.
2. Neck Pain: The patient has chronic neck pain, which he 
described as being acutely worse. A head and neck CT was done in 
the ED which did not show any acute processes. The patient's 
head CT did have an artifact in a sinus, but on repeat this had 
resolved. The patient was continued on his lidocaine patch, 
soma, and fiorcet.
- cont. lidocaine patch, soma, fioricet BID prn for h/a   
.
CHRONIC ISSUES
.
1. CVA risk factors: WE continued aspirin and plavix
.  
2. Peripheral neuropathy: Secondary to lymphoma chemotherapy. 
Continued Gabapentin.
.  
3. Narcotic/cocaine abuse: Continued the patient's home Suboxone 
8mg BID     
.  
4. HIV Risk Factors: The patient had concerns about HIV 
infection, given his sexual partner's HIV+ status. An HIV Ab 
test was performed which returned negative. The patient was 
counselled that if he had concerns about acute infection, then 
he should have repeat testing done in one month. 
 
Medications on Admission:
MEDICATIONS: main pharmacy is ___ in ___ (___) 
 
According to ___ ___ Primary Care records (Dr. ___ 
___:  
# Albuterol prn  
# lidocaine 5% patch  
# ropinirole 1 mg hs  
# ibuprofen 800 mg TID prn  
# Soma 350 mg TID x 30 days  
# Divalproex Sodium 1000 mg BID  
# Gabapentin 800 mg 5x/day  
# Metformin 500 mg BID  
# alphagan gtt BID  
# ASA 325 mg qday  
# Plavix 75 mg qday  
# Lactulose prn  
# Fioricet 1 tab BID prn h/a  
# Vicodin 7.5-750 q6h prn  
# Omeprazole 40 mg qday  
# Suboxone 8 mg BID  
# Simvastatin 80 mg hs  
(according to that visit, had stopped amitryptiline and 
citalopram at that time)  

 
Discharge Medications:
1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every four (4) hours.  
2. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
3. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO once a 
day as needed for constipation.  
6. butalbital-acetaminophen-caff 50-325-40 mg Tablet Sig: One 
(1) Tablet PO BID (2 times a day) as needed for headache.  
7. Soma 350 mg Tablet Sig: One (1) Tablet PO three times a day.  

8. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
9. buprenorphine-naloxone ___ mg Tablet, Sublingual Sig: One (1) 
Tablet Sublingual BID (2 times a day).  
10. lidocaine-prilocaine 2.5-2.5 % Cream Sig: One (1) Appl 
Topical BID (2 times a day) as needed for knee pain.  
11. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. gabapentin 800 mg Tablet Sig: One (1) Tablet PO five times a 
day.  
13. divalproex ___ mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO BID (2 times a day).  
14. ropinirole 1 mg Tablet Sig: One (1) Tablet PO at bedtime.  
15. metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.  

16. Vicodin ___ mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.  
17. clonidine 0.2 mg Tablet Sig: One (1) Tablet PO three times a 
day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Valproic Acid Toxicity
Chronic Degenerative Cervical Disk Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with chronic neck pain. The ED 
ordered a CT scan of the head and neck which was normal. The 
neck pain was mostly due to your chronic, degenerative disk 
disease. During the workup of your neck pain, we found some lab 
abnormalities that was determined to be due to Valproic Acid 
toxicity. We gave you some fluids and a medicine that fixed your 
lab results. We decreased your dose of the medicine and will 
have you follow-up with your primary doctor for any other 
medication changes. You had an HIV test here that was negative. 
As we discussed, you should be retested in ___ weeks if you are 
still concerned about a recent infection.

Medication Changes:
Take 500mg Valproic Acid by mouth twice a day. This is decreased 
from 1000mg twice a day.
 
Followup Instructions:
___